### PR TITLE
Binary search tree definition and its simple properties

### PR DESCRIPTION
**Pull request by dmitromikh**

### CODE REVIEW

File: BinSearchTree.v [hunk 1]
```diff
@@ -0,0 +1,301 @@
...
+
+Definition tree_eqclass := Tree.
+Identity Coercion tree_of_eqclass : tree_eqclass >-> Tree.
+Coercion pred_of_tree (t : tree_eqclass) : {pred Elem} := mem_tree t.
+Canonical tree_predType := PredType pred_of_tree.
+(* The line below makes mem_seq a canonical instance of topred. *)
+Canonical mem_seq_predType := PredType mem_tree.
+
+
+Fixpoint LT (x : Elem) (Tr : Tree) : bool :=
```
Comment (anton-trunov) [inline BinSearchTree.v:54]: Not sure if `LT` needs to be recursive.

File: BinSearchTree.v [hunk 2]
```diff
@@ -0,0 +1,301 @@
...
+  if Tr is T l y r then [&& LT x l, LT x r & (x < y)] else true.
+
+Fixpoint GT (x : Elem) (Tr : Tree) : bool :=
```
Comment (anton-trunov) [inline BinSearchTree.v:57]: Same as for `LT`

File: BinSearchTree.v [hunk 3]
```diff
@@ -0,0 +1,301 @@
...
+Lemma makelistE (Tr : Tree) : makelist Tr = makelist' Tr.
+Proof.
+have: (forall m, makelist_aux Tr m = makelist Tr ++ m).
+- elim: Tr=> //= l IHl x r IHr m.
+  by rewrite IHl // IHr // -catA.
+move=> aux. rewrite/makelist'. by rewrite aux cats0.
+Qed.
+
+Lemma inlist (Tr : Tree) (x : Elem) :
+  x \in makelist Tr <-> x \in Tr.
```
Comment (anton-trunov) [inline BinSearchTree.v:211]: Can we switch to the boolean equivalence here?
```suggestion
  x \in makelist Tr = x \in Tr.
```

File: BinSearchTree.v [hunk 4]
```diff
@@ -0,0 +1,301 @@
...
+- case: ltgtP=> neq //=; rewrite !is_member /=; first by rewrite lt_eqF.
+  - by rewrite gt_eqF.
+  by rewrite neq eq_refl.
+case: ltgtP=> xy /=; case: ltgtP=> x'y; rewrite !is_member //=;
+move: (TOC _ _ _ BS)=> /and4P[*];
+by rewrite ?IHl ?IHr ?(lt_eqF xy) ?(gt_eqF xy) // xy ?x'y ?eq_refl.
+Qed.
+
+Lemma already_mem (x : Elem) (Tr : Tree) (BS : BSTOrder Tr) :
+  x \in Tr -> insert x Tr = Tr.
```
Comment (anton-trunov) [inline BinSearchTree.v:269]: Do we also have a lemma like this one `x \in (insert x Tr)`? Without this the spec of `insert` seems incomplete.

File: BinSearchTree.v [hunk 5]
```diff
@@ -0,0 +1,301 @@
...
+Fixpoint candidate (x : Elem) (Tr : Tree) (cand : option Elem) : bool :=
+  if Tr is T l y r then
+    if x < y then candidate x l cand
+    else candidate x r (Some y)
+  else if cand is Some c then x == c
+       else false.
+
+Definition member' (x : Elem) (Tr : Tree) : bool := candidate x Tr None.
+
+Lemma nhd_member (x x' : Elem) (Tr : Tree) (BS : BSTOrder Tr) (NEQ : x != x') :
```
Comment (anton-trunov) [inline BinSearchTree.v:123]: - I would suggest to change `Tr` into `t` throughout and loose the `: Tree` type annotation (use `Implicit Types and the beginning of the section instead).

- Also let us not use capitalized identifiers as lemma parameters, e.g. `BS` -> `bt` or `bst`

- Let's make `NEQ` an unnamed hypothesis and introduce it as `neq` or better `neq_xx'` (or even `neq_xy` and rename `x'` into `x`).

File: BinSearchTree.v (hunk 4 above)
Comment (dmitromikh) [reply BinSearchTree.v]: I have lemma stating that `x \in (insert y t) = (x == y) || (x \in t)` which covers it. Isn't it?

Comment (anton-trunov) [reply BinSearchTree.v]: Right, I missed that one.

File: BinSearchTree.v [hunk 6]
```diff
@@ -361,81 +359,67 @@ Qed.
...
-- case eq: l IHl GTl BSl min=> [| l' y' r'] //=.
-  - move=> _ _ _ _. by move: eq xl=> ->.
-  move=> IHl GTl BSl min. rewrite is_member IHl // -?eq //; by apply/eqP.
+rewrite is_member=> /or3P[/eqP xx' | xl | xr] /eqP neq_xy;
 case eq: l IHl GTl BSl min=> [| l' y' r'] //=.
+- move=> _ _ _ [x'y]. by move: x'y xx' neq_xy=>->->.
+- move=> IHl GTl BSl min. by rewrite is_member xx' eq_refl.
+- move=> _ _ _ _. by move: eq xl=>->.
+- move=> IHl GTl BSl min. rewrite is_member IHl // -?eq //; by apply/eqP.
 move=> IHl GTl BSl min. by rewrite is_member xr.
```
Comment (dmitromikh) [inline BinSearchTree.v]:
```suggestion
case eq: l IHl GTl BSl min=> [| l' y' r'] //= IHl ??.
- move=> [x'y]. by move: x'y xx' neq_xy=>->->.
- move=> min. by rewrite is_member xx' eq_refl.
- move=> _. by move: eq xl=>->.
- move=> min. rewrite is_member IHl // -?eq //; by apply/eqP.
move=> min. by rewrite is_member xr.
```
